US07696192B2
Step B. 6-Methyl-4-nitro-1H-indole
A solution of 2,5-dimethyl-3-nitroaniline from Step A (1.21 g, 7.26 mmol) and p-toluenesulfonic acid monohydrate (2 mg, 0.011 mmol) in freshly distilled triethyl orthoformate (1.65 mL, 9.92 mmol) was heated at 120° C. for 45 min in a distillation apparatus, and about 0.4 mL of EtOH distilled over. Vacuum distillation of the residual solution yielded ethyl 2,5-dimethyl-3-nitrophenylimidoformate (b.p.=146° C., ca. 2 mm Hg) as a pale yellow solid. To a solution of diethyl oxalate (868 mg, 5.94 mmol) in DMF (2 mL), at 0° C., was added potassium ethoxide (435 mg, 5.17 mmol) and the resulting solution was added to a solution of ethyl 2,5-dimethyl-3-nitrophenylimidoformate (880 mg, 3.96 mmol) in DMSO (3 mL). The reaction mixture was heated at 40° C. for 1 h than quenched with H2O (30 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine, then dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 0:100, to give the title compound. MS: m/z=177 (M+1).

reactant | diethyl oxalate | 5.94 mmol, 868 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | 5.17 mmol, 435 mg | [O-]CC.[K+]
reactant | ethyl 2,5-dimethyl-3-nitrophenylimidoformate | 3.96 mmol, 880 mg | CC1=C(C=C(C=C1[N+](=O)[O-])C)C(OCC)=N | C11H14N2O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 6-Methyl-4-nitro-1H-indole | CC1=CC(=C2C=CNC2=C1)[N+](=O)[O-] | C9H8N2O2
